US07943669B2
Step B: {2-Methyl-4-[3-(3-morpholin-4-yl-propoxy)-5-(3-phenyl-prop-1-ynyl)phenylsulfanyl]-phenoxy}-acetic Acid
{2-Methyl-4-[3-(3-morpholin-4-yl-propoxy)-5-(3-phenyl-prop-1-ynyl)-phenylsulfanyl]-phenoxy}-acetic acid ethyl ester (200 mg; 0.36 mmol) was dissolved in ethanol (20 mL), and aqueous 1 N sodium hydroxide (3 mL) was added. The reaction mixture was stirred for 1 h, acidified with 1 N aqueous hydrochloric acid, and extracted with ethyl acetate. The organic phase was dried and evaporated to dryness. Yield: 150 mg. HPLC-MS: m/z: 532.1 (M+); Rt: 1.87 min.

reactant | {2-Methyl-4-[3-(3-morpholin-4-yl-propoxy)-5-(3-phenyl-prop-1-ynyl)-phenylsulfanyl]-phenoxy}-acetic acid ethyl ester | 0.36 mmol, 200 mg | C(C)OC(COC1=C(C=C(C=C1)SC1=CC(=CC(=C1)C#CCC1=CC=CC=C1)OCCCN1CCOCC1)C)=O | C33H37NO5S
reactant | sodium hydroxide | 1 N, 3 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | {2-Methyl-4-[3-(3-morpholin-4-yl-propoxy)-5-(3-phenyl-prop-1-ynyl)phenylsulfanyl]-phenoxy}-acetic Acid | CC1=C(OCC(=O)O)C=CC(=C1)SC1=CC(=CC(=C1)C#CCC1=CC=CC=C1)OCCCN1CCOCC1 | C31H33NO5S
